US07829560B2
3-Fluoro-N-{4-[3-(3-oxo-piperazin-1-yl)-propoxy]-naphthalen-1-yl}-5-piperidin-1-yl-benzamide (Compound B175).
Compound is prepared from N-[4-(3-chloropropoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide and 2-piperazinone according to conditions described in general procedure L. A white powder is produced (0.102 g, 60%). Mp: 90-92° C. 1H NMR (300 MHz, DMSO-d6) δ 10.23 (s, 1H), 8.24 (d, J=6.3 Hz, 1H), 7.86 (d, J=8.7 Hz, 1H), 7.75 (s, 1H), 7.56 (m, 2H), 7.45 (s, 1H), 7.42 (d, J=8.1, Hz, 1H), 7.16 (d, J=9.6 Hz, 1H), 7.01 (d, J=8.7 Hz, 1H), 6.93 (s, 1H), 4.22 (br s, 2H), 3.31 (m, 4H), 3.17 (br s, 2H), 2.98 (s, 2H), 2.61 (m, 4H), 2.06 (m, 2H), 1.60 (brs, 6H). MS: 505.2 (M+1).

reactant | N-[4-(3-chloropropoxy)-naphthalen-1-yl]-3-fluoro-5-piperidin-1-yl-benzamide | ClCCCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC(=C1)N1CCCCC1)F)=O | C25H26ClFN2O2
reactant | 2-piperazinone | N1C(CNCC1)=O | C4H8N2O
product | 3-Fluoro-N-{4-[3-(3-oxo-piperazin-1-yl)-propoxy]-naphthalen-1-yl}-5-piperidin-1-yl-benzamide | FC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCCN2CC(NCC2)=O)C=C(C1)N1CCCCC1 | C29H33FN4O3
